US07226945B2
2) Synthesis of 1-(2-chloro-4,6-dihydroxyphenyl)-2-(4-hydroxyphenyl)ethanone.
Boron tribromide (1.0 M soultion in dichloromethane, 5 mL) was added drop-wise to a solution of 1-(2-chloro-4,6-dimethoxyphenyl)-2-(4-methoxyphenyl)ethanone (1.34 g) in 1,2-dichloroethane (25 mL). The solution was heated to 70° C. for 24 h, cooled to room temperature and stirred for 90 h. Additional boron tribromide (1.0 M solution in dichloromethane, 5 mL) was added drop-wise, heating to 70° C. for 12 h. The solution was cooled to −45° C., quenched with methanol (45 mL) and concentrated in vacuo. The solids were redissolved in ethyl acetate (40 mL) and washed with saturated sodium bicarbonate (2×25 mL), 1.2 N HCl (2×25 mL) and brine (2×25 mL), dried over Na2SO4, filtered and concentrated in vacuo. The resulting oil was triturated with dichloromethane (150 mL) to provide the title compound (866 mg). 1H NMR (DMSO-d6): 10.35 (s br, 1H), 10.02 (s br, 1H), 9.28 (s br, 1H), 6.94 (d, 2H, J=8.4 Hz), 6.65 (d, 2H, J=8.7 Hz), 6.27 (dd, 2H, J=10.2 Hz, 2.1 Hz), 3.92 (s, 2H); MS: 279 (MH+).

reactant | Boron tribromide | 1.0 M, 5 mL | B(Br)(Br)Br | BBr3
reactant | 1-(2-chloro-4,6-dimethoxyphenyl)-2-(4-methoxyphenyl)ethanone | 1.34 g | ClC1=C(C(=CC(=C1)OC)OC)C(CC1=CC=C(C=C1)OC)=O | C17H17ClO4
reactant | boron tribromide | 1.0 M, 5 mL | B(Br)(Br)Br | BBr3
solvent | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
product | 1-(2-chloro-4,6-dihydroxyphenyl)-2-(4-hydroxyphenyl)ethanone | 866 mg | ClC1=C(C(=CC(=C1)O)O)C(CC1=CC=C(C=C1)O)=O | C14H11ClO4
